US07816522B2
To a solution of 5.64 g of diisopropylamine in 100 ml of THF there was added 21.1 ml of n-butyllithium (2.55M, n-hexane solution) at −75° C. under a nitrogen atmosphere, and after stirring the mixture for 30 minutes, a solution of 6.78 g of 3-t-butoxypyrazine [CAS No. 70090-30-1] in 30 ml of THF was added dropwise. After stirring at the same temperature for 4 hours, a solution of 17.9 g of iodine in 100 ml of THF was added dropwise and the mixture was stirred overnight at room temperature. Next, 800 ml of saturated aqueous sodium sulfite and 800 ml of ethyl acetate were added, and the organic layer was washed with 300 ml of saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate) to give 2-t-butoxy-3-iodopyrazine (0.77 g) as a yellow oil.

reactant | diisopropylamine | 5.64 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.55M, 21.1 ml | C(CCC)[Li]
reactant | 3-t-butoxypyrazine | 6.78 g | C(C)(C)(C)OC=1C=NC=CN1 | C8H12N2O
reactant | iodine | 17.9 g | II | I2
reactant | sodium sulfite | 800 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
product | 2-t-butoxy-3-iodopyrazine | 0.77 g | C(C)(C)(C)OC1=NC=CN=C1I | C8H11IN2O
